2120-01-29 07:18:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2120-1-28**] 02:00 PM
 ARTERIAL LINE - START [**2120-1-29**] 12:00 AM
   - stopped vanc/cefepime
   - large volume of diarrhea; guaiac negative; C. diff toxin sent
   - hypotension to SBP of 40s on non-invasive cuff when off
   norepinephrine. Norepinephrine restarted with improvement of SBP of
   80-100. Urine output decreased to 20 cc/hr.
   - renal U/S (wet read) showed bilateral renal cysts. Echogenic kidneys
   compatible with medical renal disease. No hydronephrosis.
   - LENI's were not done because patient was having diarrhea while
   son[**Name (NI) 2105**] was with him
   - p.m. Hct stable
   - patient needs new battery for his hearing aid
   - placed R radial A-line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-1-28**] 03:00 AM
   Cefipime - [**2120-1-28**] 04:00 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-29**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 79 (59 - 96) bpm
   BP: 112/55(70) {93/46(61) - 112/60(71)} mmHg
   RR: 14 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,746 mL
                                                                    252 mL
   PO:
                                                                  1,260 mL
             TF:
   IVF:
                                                                    986 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    330 mL
   Urine:
                                                                  1,470 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,276 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   VS: T= 97.3; BP= 130/96; HR= 93; RR= 17; O2 sat= 98% on 2L NC
   GENERAL: 74 y/o M in NAD. Oriented. Mood, affect appropriate.
   HEENT: NC/AT. PERRL, EOMI. Conjunctiva were pink, no pallor or cyanosis
   of the oral mucosa. No xanthalesma noted.
   NECK: Supple with JVP of [**8-2**] cm.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Rhonchi/coarse
   breath sounds throughout. No significant crackles or wheezes noted.
   Decreased breath sounds at the bases.
   ABDOMEN: Soft. Non-tender. Somewhat distended. Bowel sounds present. No
   masses appreciated.
   EXTREMITIES: Pitting edema in the bilateral LE's to the thighs.
   ?slightly greater on the R.  TTP of the distal RLE.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas noted.
   PULSES:
   Right: DP 1+ / PT by doppler / Radial 2+
   Left: DP 1+ / PT by doppler / Radial 2+
   Labs / Radiology
   209 K/uL
   8.2 g/dL
   121 mg/dL
   2.2 mg/dL
   21 mEq/L
   5.0 mEq/L
   41 mg/dL
   110 mEq/L
   136 mEq/L
   25.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2120-1-28**]  02:38 AM
                             [**2120-1-28**]  04:30 PM
                             [**2120-1-29**]  05:09 AM
   WBC
   6.3
   8.8
   Hct
   23.8
   24.7
   25.9
   Plt
   187
   209
   Cr
   2.1
   2.1
   2.2
   TropT
   0.21
   0.21
   Glucose
   104
   121
   Other labs: PT / PTT / INR:12.9/34.6/1.1, CK / CKMB /
   Troponin-T:81/4/0.21, ALT / AST:23/27, Alk Phos / T Bili:135/0.4,
   Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 74 y/o M with history of HTN, COPD, dCHF (last EF
   55% with LVH), admitted for CHF exacerbation.
   .
   #. Hypotension: Etiology unclear. This could represent
   distributive/septic shock. However, the patient does not have any
   elevated WBC and he is not febrile. This could also represent
   cardiogenic shock. However, this does not seem to be the case on exam
   or on echo. Low EKG voltage in limb leads raises the possibility of an
   infiltrative process such as amyloidosis. TSH and cortisol normal. The
   patient
s episodes of hypotension do not seem to correlate with any
   clinical events and are generally asymptomatic.
   - continue to wean levophed as tolerated
   - f/u blood, urine, and sputum cultures
   - arterial line in place for close BP monitoring
   - right heart catheterization with endomyocardial biopsy
   .
   #. Acute on Chronic Renal Failure: Creatinine on admission was 2.2 with
   a recent baseline of 1.9. However, OMR review reveals worsening of the
   patient's renal fxn over the past few months. FeUrea was consistent
   with a pre-renal state. However, proteinuria and renal ultrasound more
   consistent with intrinsic renal cause.
   - f/u renal U/S (final read)
   - f/u UPEP and SPEP
   - consider renal consult
   .
   #. CHF: Bedside echo revealed borderline RV function, and the patient
   does exhibit signs of right-sided HF on exam (elevated JVP, LE edema).
   Likely related to patient
s COPD, although a more acute process such as
   PE could also be implicated.
   - holding further diuresis for now
   - low salt diet
   - LENIs to evaluate for DVT
   .
   #. Elevated Troponin: The patient does have some Tn elevation, but
   troponins are flat and CK normal. Unlikely to be related to ACS.
   - continue atorvastatin and aspirin
   .
   #. Microcytic Anemia: Recent iron studies in [**2119-12-25**], show evidence of
   iron deficiency anemia. Colonoscopy in [**2114**] was normal.
   - [**Hospital1 7**] Hct
   - maintain active T&S
   - guaiac all stools
   - continue iron supplementation
   .
   # COPD: Currently presentation not consistent with COPD exacerbation,
   although COPD is likely related to patient
s right-sided heart failure.
   - continue nebs PRN
   .
   # Vit B12 Deficiency: Continue supplementation
   .
   # H/O ETOH Abuse: Per pt, he has not used alcohol in 3 months.
   - no CIWA at this time; can consider if pt develops signs of withdrawal
   - continue MVI, thiamine, and folate
   ICU Care
   Nutrition: NPO for right heart cath
   Glycemic Control: none
   Lines:
   Cordis/Introducer - [**2120-1-28**] 02:00 AM
   Right radial arterial line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-02-01 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   - renal recs: continue 24 hours urine collection, check iron studies,
   slow down diuresis given hyponatremia; 123-SAP infusion study (at
   [**Hospital1 403**])would be non-invasive option
   - endocrine recs: 1. hold on further steroids, 2. can bolus small doses
   dexamethasone if deteriorates, 3. f/u ACTH, 4. could consider checking
   free cortisol, though will take a long time to come back
   - added on iron studies
   - plan for fat pad biopsy Friday; will need to be NPO after midnight
   Thursday night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-1-29**] 07:02 PM
   Piperacillin - [**2120-1-29**] 09:23 PM
   Levofloxacin - [**2120-1-29**] 09:28 PM
   Vancomycin - [**2120-1-29**] 11:00 PM
   Infusions:
   Phenylephrine - 0.9 mcg/Kg/min
   Furosemide (Lasix) - 2.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-1-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-1**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 59 (58 - 64) bpm
   BP: 97/53(64) {82/45(54) - 112/59(71)} mmHg
   RR: 16 (11 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,379 mL
                                                                    623 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    899 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                    800 mL
   Urine:
                                                                  4,580 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,201 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   GENERAL: Alert; NAD.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: Scattered wheezes. Bronchial breath sounds bilaterally.
   ABDOMEN: Non-tender. Somewhat distended. Bowel sounds present. No
   masses appreciated. No rebound or guarding.
   EXTREMITIES: Pitting edema in the bilateral LE's to the thighs.
   Labs / Radiology
   195 K/uL
   8.2 g/dL
   121 mg/dL
   2.0 mg/dL
   20 mEq/L
   5.1 mEq/L
   47 mg/dL
   105 mEq/L
   134 mEq/L
   26.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2120-1-29**]  03:05 PM
                             [**2120-1-29**]  07:40 PM
                             [**2120-1-29**]  08:00 PM
                             [**2120-1-30**]  02:59 AM
                             [**2120-1-30**]  03:15 AM
                             [**2120-1-30**]  09:34 AM
                             [**2120-1-30**]  09:37 AM
                             [**2120-1-31**]  05:09 AM
                             [**2120-1-31**]  04:11 PM
                             [**2120-2-1**]  06:17 AM
   WBC
   9.5
   11.9
   9.4
   Hct
   25
   25
   26.2
   23
   40
   27.6
   26.0
   Plt
   [**Telephone/Fax (3) 13911**]
   Cr
   2.2
   2.2
   2.0
   TCO2
   23
   18
   Glucose
   126
   144
   121
   Other labs: PT / PTT / INR:13.0/39.9/1.1, CK / CKMB /
   Troponin-T:81/4/0.21, ALT / AST:46/53, Alk Phos / T Bili:119/0.3,
   Differential-Neuts:72.9 %, Lymph:15.7 %, Mono:10.6 %, Eos:0.6 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   74 y/o M with history of HTN, COPD, dCHF (last EF 55% with LVH),
   admitted for CHF exacerbation.
   .
   #. Hypotension: Likely related to autonomic dysfunction in the setting
   of possible [**Doctor Last Name **] amyloidosis.  Cortisol stimulation showed somewhat
   blunted response, but endocrine does not feel that the patient has
   adrenal insufficiency. On midodrine. No evidence of infection to raise
   concern for sepsis.
   - attempt to wean pressors as tolerated
   - continue midodrine; increase to 10 mg TID as pt still has pressor
   requirement
   - f/u micro data; NGTD
   - f/u endocrine recs
   - fat pad biopsy tomorrow to look for amyloidosis
   .
   #. Acute on Chronic Renal Failure: Creatinine on admission was 2.2 with
   a recent baseline of 1.9.  Improved to 2.0 today. However, OMR review
   reveals worsening of the patient's renal fxn over the past few months.
   FeUrea was consistent with a pre-renal state. However, proteinuria and
   renal ultrasound are suggestive of an intrinsic renal cause.
   Amyloidosis is likely the underlying process. Creatinine has remained
   stable throughout CCU stay.
   - f/u renal recs
   - fat pad biopsy tomorrow to look for amyloidosis
   - change omperazole to ranitidine, as there could be some component of
   AIN [**12-26**] omeprazole
   .
   #. Diastolic congestive heart failure/peripheral edema: Echo showed
   moderate pulmonary artery systolic hypertension and increased PCWP, as
   well as pleural effusions.  Cardiac catheterization showed mild
   biventricular diastolic dysfunction and moderate pulmonary
   hypertension.  As above, there is concern for possible infiltrative
   process (such as amyloidosis). Low limb lead voltages on EKG are
   consistent with this.
   - lasix diuresis slowed yesterday, as pt became hyponatremia
   - continue diuresis with a goal of -1to2 L
   - low salt diet
   - fat pad bx Friday to look for potential amyloidosis
   .
   #. Coronaries: The patient does have some Tn elevation, but troponins
   are flat and CK normal. Unlikely to be related to ACS.
   - continue atorvastatin and aspirin
   .
   #. Microcytic Anemia: Recent iron studies in [**2119-12-25**], show evidence of
   iron deficiency anemia. Colonoscopy in [**2114**] was normal.  Hematocrit has
   been stable. Iron studies showed low iron with borderline low TIBC and
   ferritin.
   - maintain active T&S
   - guaiac all stools
   - continue iron supplementation
   .
   # COPD: Continue nebs PRN
   .
   # Vit B12 Deficiency: Continue supplementation
   .
   # H/O ETOH Abuse: Per pt, he has not used alcohol in 3 months.
   - no CIWA at this time; can consider if pt develops signs of withdrawal
   - continue MVI, thiamine, and folate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-1-28**] 01:35 AM
   22 Gauge - [**2120-1-28**] 01:35 AM
   Cordis/Introducer - [**2120-1-28**] 02:00 AM
   Arterial Line - [**2120-1-29**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   Per housestaff
   nothing to add
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   Improving - plan for fat pad biopsy tomorrow
   cuff pressure more accurate than arterial pressure
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**],MD
   on:[**2120-2-1**] 13:26 ------

2120-02-02 06:50:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -net negative 1.5L by 8pm.
   -neo was weaned but became hypotensive to MAP 45 felt dizzy, neo
   restarted at 7:30pm, MAPS mostly >55 by art line.
   Started midodrine 10 TID
   -npo after midnight for biopsy
   weaning pressors for goal map 55 .Started on mididrine 10 TID
   -changed from PPI to ranitidine
   -OOB to chair
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2.5 mg/hour
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-1**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-2**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 65 (59 - 68) bpm
   BP: 91/56(64) {1/1(1) - 115/65(76)} mmHg
   RR: 11 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.5 kg (admission): 84.8 kg
   Height: 70 Inch
             Total In:
                                                                  1,326 mL
                                                                    142 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                    686 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    850 mL
   Urine:
                                                                  3,210 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,884 mL
                                                                   -707 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL: Alert; NAD.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: Scattered wheezes, clear with coughing.
   ABDOMEN: Non-tender. Mildly distended.
   GU: Scrotal edema slightly improved..
   EXTREMITIES: Pitting edema in the bilateral LE's to the thighs.
   Labs / Radiology
   205 K/uL
   7.7 g/dL
   88 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.9 mEq/L
   48 mg/dL
   104 mEq/L
   133 mEq/L
   23.7 %
   7.2 K/uL
        [image002.jpg]
                             [**2120-1-29**]  07:40 PM
                             [**2120-1-29**]  08:00 PM
                             [**2120-1-30**]  02:59 AM
                             [**2120-1-30**]  03:15 AM
                             [**2120-1-30**]  09:34 AM
                             [**2120-1-30**]  09:37 AM
                             [**2120-1-31**]  05:09 AM
                             [**2120-1-31**]  04:11 PM
                             [**2120-2-1**]  06:17 AM
                             [**2120-2-2**]  04:11 AM
   WBC
   9.5
   11.9
   9.4
   7.2
   Hct
   25
   25
   26.2
   23
   40
   27.6
   26.0
   23.7
   Plt
   [**Telephone/Fax (3) 13924**]05
   Cr
   2.2
   2.2
   2.0
   2.1
   2.0
   TCO2
   18
   Glucose
   126
   144
   121
   100
   88
   Other labs: PT / PTT / INR:12.7/41.3/1.1, CK / CKMB /
   Troponin-T:81/4/0.21, ALT / AST:46/53, Alk Phos / T Bili:119/0.3,
   Differential-Neuts:72.9 %, Lymph:15.7 %, Mono:10.6 %, Eos:0.6 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   74 y/o M with history of HTN, COPD, dCHF (last EF 55% with LVH),
   admitted for CHF exacerbation.
   .
   #. Hypotension: Likely related to autonomic dysfunction in the setting
   of possible [**Doctor Last Name **] amyloidosis.  Cortisol stimulation showed somewhat
   blunted response, but endocrine does not feel that the patient has
   adrenal insufficiency. On midodrine. No evidence of infection to raise
   concern for sepsis.
   - attempt to wean pressors as tolerated
   - continue midodrine at 10 mg TID dose
   - f/u micro data; NGTD
   - f/u endocrine recs
   - fat pad biopsy today to look for amyloidosis
   .
   #. Acute on Chronic Renal Failure: Creatinine on admission was 2.2 with
   a recent baseline of 1.9.  Improved to 2.0 today. However, OMR review
   reveals worsening of the patient's renal fxn over the past few months.
   FeUrea was consistent with a pre-renal state. However, proteinuria and
   renal ultrasound are suggestive of an intrinsic renal cause.
   Amyloidosis is likely the underlying process. AIN considered in Ddx in
   setting of urine eosinophils. Omeprazole changed to ranitidine.
   Creatinine has remained stable throughout CCU stay.
   - f/u renal recs
   - fat pad biopsy today to look for amyloidosis
   .
   #. Diastolic congestive heart failure/peripheral edema: Echo showed
   moderate pulmonary artery systolic hypertension and increased PCWP, as
   well as pleural effusions.  Cardiac catheterization showed mild
   biventricular diastolic dysfunction and moderate pulmonary
   hypertension.  As above, there is concern for possible infiltrative
   process (such as amyloidosis). Low limb lead voltages on EKG are
   consistent with this.
   - continue diuresis with a goal of -1 to 2 L
   - low salt diet
   - fat pad bx today to look for potential amyloidosis
   .
   #. Coronaries: The patient does have some Tn elevation, but troponins
   are flat and CK normal. Unlikely to be related to ACS.
   - continue atorvastatin and aspirin
   .
   #. Monoclonal gammopathy: Patient has IgA kappa monoclonal gammopathy.
   Unclear if he also has amyloidosis and/or myeloma.
   - fat pad biopsy
   - heme/onc consult when appropriate
   .
   #. Microcytic Anemia: Recent iron studies in [**2119-12-25**], show evidence of
   iron deficiency anemia. Colonoscopy in [**2114**] was normal.  Hematocrit has
   been stable. Iron studies showed low iron with borderline low TIBC and
   ferritin.  Monoclonal gammopathy may also be contributing to anemia if
   patient has myeloma.
   - maintain active T&S
   - transfuse for goal Hct<21
   - guaiac all stools
   - continue iron supplementation
   .
   # COPD: Continue nebs PRN
   .
   # Vit B12 Deficiency: Continue supplementation
   .
   # H/O ETOH Abuse: Per pt, he has not used alcohol in 3 months.
   - no CIWA at this time; can consider if pt develops signs of withdrawal
   - continue MVI, thiamine, and folate
   ICU Care
   Nutrition: NPO for fat pad biopsy.
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-1-28**] 01:35 AM
   22 Gauge - [**2120-1-28**] 01:35 AM
   Cordis/Introducer - [**2120-1-28**] 02:00 AM
   Arterial Line - [**2120-1-29**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-02-03 05:54:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - PM lytes were ok
   - has his fat pad biopsy
   - requiring increasing doses of pressors, decreasing amt of UOP; held
   lasix
   - sent stool for c.diff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-2**] 10:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-3**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 56 (52 - 69) bpm
   BP: 97/50(58) {75/32(45) - 131/63(71)} mmHg
   RR: 12 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 86 kg (admission): 84.8 kg
   Height: 70 Inch
             Total In:
                                                                  1,100 mL
                                                                    388 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    260 mL
   Urine:
                                                                  2,370 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   GENERAL: Alert; NAD.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: Decreased breath sounds at bases.
   ABDOMEN: Non-tender. Mildly distended.
   GU: Scrotal edema stable..
   EXTREMITIES: Pitting edema in the bilateral LE's to the thighs.
   Labs / Radiology
   190 K/uL
   7.7 g/dL
   88 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.6 mEq/L
   50 mg/dL
   104 mEq/L
   135 mEq/L
   24.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2120-1-30**]  02:59 AM
                             [**2120-1-30**]  03:15 AM
                             [**2120-1-30**]  09:34 AM
                             [**2120-1-30**]  09:37 AM
                             [**2120-1-31**]  05:09 AM
                             [**2120-1-31**]  04:11 PM
                             [**2120-2-1**]  06:17 AM
                             [**2120-2-2**]  04:11 AM
                             [**2120-2-2**]  04:54 PM
                             [**2120-2-3**]  04:21 AM
   WBC
   9.5
   11.9
   9.4
   7.2
   7.3
   Hct
   26.2
   23
   40
   27.6
   26.0
   23.7
   24.3
   Plt
   [**Telephone/Fax (3) 13924**]05
   190
   Cr
   2.2
   2.2
   2.0
   2.1
   2.0
   2.1
   2.0
   TCO2
   18
   Glucose
   126
   144
   121
   100
   88
   88
   Other labs: PT / PTT / INR:11.8/42.6/1.0, CK / CKMB /
   Troponin-T:81/4/0.21, ALT / AST:46/53, Alk Phos / T Bili:119/0.3,
   Differential-Neuts:72.9 %, Lymph:15.7 %, Mono:10.6 %, Eos:0.6 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   74 y/o M with history of HTN, COPD, dCHF (last EF 55% with LVH),
   admitted for CHF exacerbation.
   .
   #. Hypotension: Likely related to autonomic dysfunction in the setting
   of possible [**Doctor Last Name **] amyloidosis.  Cortisol stimulation showed somewhat
   blunted response, but endocrine does not feel that the patient has
   adrenal insufficiency. On midodrine. No evidence of infection to raise
   concern for sepsis.
   - change phenylephrine to norepinephrine
   - continue midodrine at 10 mg TID dose
   - f/u micro data; NGTD
   - f/u endocrine recs
   - fat pad biopsy today to look for amyloidosis
   .
   # Diarrhea: Likely related to autonomic dysfunction in setting of
   possible [**Doctor Last Name **] amyloidosis. Checking C. diff.
   -monitor volume status
   -f/u C. diff
   -guaiac stools
   .
   #. Acute on Chronic Renal Failure: Creatinine on admission was 2.2 with
   a recent baseline of 1.9.  Now stable at 2.0. However, OMR review
   reveals worsening of the patient's renal function over the past few
   months. FeUrea was consistent with a pre-renal state. However,
   proteinuria and renal ultrasound are suggestive of an intrinsic renal
   cause. Amyloidosis is likely the underlying process. AIN considered in
   Ddx in setting of urine eosinophils and omeprazole changed to
   ranitidine. Creatinine has remained stable throughout CCU stay.
   - f/u renal recs
   - fat pad biopsy today to look for amyloidosis
   .
   #. Diastolic congestive heart failure/peripheral edema: Echo showed
   moderate pulmonary artery systolic hypertension and increased PCWP, as
   well as pleural effusions.  Cardiac catheterization showed mild
   biventricular diastolic dysfunction and moderate pulmonary
   hypertension.  As above, there is concern for possible infiltrative
   process (such as amyloidosis). Low limb lead voltages on EKG are
   consistent with this.
   - hold diuresis for now
   - low salt diet
   - f/u fat pad bx
   .
   #. Coronaries: The patient does have some Tn elevation, but troponins
   are flat and CK normal. Unlikely to be related to ACS.
   - continue atorvastatin and aspirin
   .
   #. Monoclonal gammopathy: Patient has IgA kappa monoclonal gammopathy.
   Unclear if he also has amyloidosis and/or myeloma.
   - fat pad biopsy
   - heme/onc consult when appropriate
   .
   #. Microcytic Anemia: Recent iron studies in [**2119-12-25**], show evidence of
   iron deficiency anemia. Colonoscopy in [**2114**] was normal.  Hematocrit has
   been stable. Iron studies showed low iron with borderline low TIBC and
   ferritin.  Monoclonal gammopathy may also be contributing to anemia if
   patient has myeloma.
   - maintain active T&S
   - transfuse for goal Hct<21
   - guaiac all stools
   - continue iron supplementation
   .
   # COPD: Continue nebs PRN
   .
   # Vit B12 Deficiency: Continue supplementation
   .
   # H/O ETOH Abuse: Per pt, he has not used alcohol in 3 months.
   - no CIWA at this time; can consider if pt develops signs of withdrawal
   - continue MVI, thiamine, and folate
   ICU Care
   Nutrition: Low sodium, heart-healthy
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2120-1-28**] 02:00 AM
   20 Gauge - [**2120-2-2**] 09:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-02-04 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ordered compression stockings
   - d/c'ed Lasix gtt
   - renal recs: consult heme/onc, "ease off diuresis"
   - 5 p.m. - pressors off
   - C. diff positive. Ordered Flagyl.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-3**] 09:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-4**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 70 (58 - 76) bpm
   BP: 102/54(64) {78/22(40) - 111/92(95)} mmHg
   RR: 11 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86 kg (admission): 84.8 kg
   Height: 70 Inch
           Total In:
                                                                  1,216 mL
                                                                    464 mL
   PO:
                                                                    720 mL
           TF:
   IVF:
                                                                    496 mL
                                                                    114 mL
   Blood products:
   350 mL
   Total out:
                                                                  1,150 mL
                                                                    395 mL
   Urine:
                                                                  1,150 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     66 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: Alert; NAD.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: Decreased breath sounds at bases.
   ABDOMEN: Non-tender. Mildly distended.
   GU: Scrotal edema stable..
   EXTREMITIES: Pitting edema in the bilateral LE's to the thighs.
   Labs / Radiology
   188 K/uL
   8.2 g/dL
   88 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.6 mEq/L
   50 mg/dL
   104 mEq/L
   135 mEq/L
   25.6 %
   9.3 K/uL
        [image002.jpg]
                             [**2120-1-30**]  03:15 AM
                             [**2120-1-30**]  09:34 AM
                             [**2120-1-30**]  09:37 AM
                             [**2120-1-31**]  05:09 AM
                             [**2120-1-31**]  04:11 PM
                             [**2120-2-1**]  06:17 AM
                             [**2120-2-2**]  04:11 AM
                             [**2120-2-2**]  04:54 PM
                             [**2120-2-3**]  04:21 AM
                             [**2120-2-4**]  07:00 AM
   WBC
   11.9
   9.4
   7.2
   7.3
   9.3
   Hct
   23
   40
   27.6
   26.0
   23.7
   24.3
   25.6
   Plt
   184
   195
   205
   190
   188
   Cr
   2.2
   2.0
   2.1
   2.0
   2.1
   2.0
   TCO2
   18
   Glucose
   144
   121
   100
   88
   88
   Other labs: PT / PTT / INR:11.8/42.6/1.0, CK / CKMB /
   Troponin-T:81/4/0.21, ALT / AST:46/53, Alk Phos / T Bili:119/0.3,
   Differential-Neuts:72.9 %, Lymph:15.7 %, Mono:10.6 %, Eos:0.6 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 .H/O ANEMIA, OTHER
 .H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   74 y/o M with history of HTN, COPD, dCHF (last EF 55% with LVH),
   admitted for CHF exacerbation.
   .
   Weaned off pressors o/n, Bp tanked with UOP, now on levo with wean.
   Cdiff +Ve
   #. Hypotension: Likely related to autonomic dysfunction in the setting
   of possible [**Doctor Last Name **] amyloidosis.  Cortisol stimulation showed somewhat
   blunted response, but endocrine does not feel that the patient has
   adrenal insufficiency. On midodrine. No evidence of infection to raise
   concern for sepsis.
   - change phenylephrine to norepinephrine
   - continue midodrine at 10 mg TID dose
   - f/u micro data; NGTD
   - f/u endocrine recs
   - fat pad biopsy today to look for amyloidosis
   .
   # Diarrhea: Likely related to autonomic dysfunction in setting of
   possible [**Doctor Last Name **] amyloidosis. Checking C. diff.
   -monitor volume status
   -f/u C. diff
   -guaiac stools
   .
   #. Acute on Chronic Renal Failure: Creatinine on admission was 2.2 with
   a recent baseline of 1.9.  Now stable at 2.0. However, OMR review
   reveals worsening of the patient's renal function over the past few
   months. FeUrea was consistent with a pre-renal state. However,
   proteinuria and renal ultrasound are suggestive of an intrinsic renal
   cause. Amyloidosis is likely the underlying process. AIN considered in
   Ddx in setting of urine eosinophils and omeprazole changed to
   ranitidine. Creatinine has remained stable throughout CCU stay.
   - f/u renal recs
   - fat pad biopsy today to look for amyloidosis
   .
   #. Diastolic congestive heart failure/peripheral edema: Echo showed
   moderate pulmonary artery systolic hypertension and increased PCWP, as
   well as pleural effusions.  Cardiac catheterization showed mild
   biventricular diastolic dysfunction and moderate pulmonary
   hypertension.  As above, there is concern for possible infiltrative
   process (such as amyloidosis). Low limb lead voltages on EKG are
   consistent with this.
   - hold diuresis for now
   - low salt diet
   - f/u fat pad bx
   .
   #. Coronaries: The patient does have some Tn elevation, but troponins
   are flat and CK normal. Unlikely to be related to ACS.
   - continue atorvastatin and aspirin
   .
   #. Monoclonal gammopathy: Patient has IgA kappa monoclonal gammopathy.
   Unclear if he also has amyloidosis and/or myeloma.
   - fat pad biopsy
   - heme/onc consult when appropriate
   .
   #. Microcytic Anemia: Recent iron studies in [**2119-12-25**], show evidence of
   iron deficiency anemia. Colonoscopy in [**2114**] was normal.  Hematocrit has
   been stable. Iron studies showed low iron with borderline low TIBC and
   ferritin.  Monoclonal gammopathy may also be contributing to anemia if
   patient has myeloma.
   - maintain active T&S
   - transfuse for goal Hct<21
   - guaiac all stools
   - continue iron supplementation
   .
   # COPD: Continue nebs PRN
   .
   # Vit B12 Deficiency: Continue supplementation
   .
   # H/O ETOH Abuse: Per pt, he has not used alcohol in 3 months.
   - no CIWA at this time; can consider if pt develops signs of withdrawal
   - continue MVI, thiamine, and folate
   ICU Care
   Nutrition: Low sodium, heart-healthy
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2120-1-28**] 02:00 AM
   20 Gauge - [**2120-2-2**] 09:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2120-1-28**] 02:00 AM
   20 Gauge - [**2120-2-2**] 09:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-02-05 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   - dc'd levo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-4**] 09:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-5**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 61 (57 - 72) bpm
   BP: 97/75(79) {78/38(47) - 104/75(79)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86 kg (admission): 84.8 kg
   Height: 70 Inch
             Total In:
                                                                    988 mL
                                                                     60 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                    188 mL
                                                                     60 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,105 mL
                                                                     80 mL
   Urine:
                                                                  1,105 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   GENERAL: Alert; NAD.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: Decreased breath sounds at bases.
   ABDOMEN: Non-tender. Mildly distended.
   GU: Scrotal edema stable..
   EXTREMITIES: Pitting edema in the bilateral LE's to the thighs.
   Labs / Radiology
   209 K/uL
   8.0 g/dL
   101 mg/dL
   1.9 mg/dL
   24 mEq/L
   4.4 mEq/L
   47 mg/dL
   104 mEq/L
   135 mEq/L
   24.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2120-1-30**]  09:34 AM
                             [**2120-1-30**]  09:37 AM
                             [**2120-1-31**]  05:09 AM
                             [**2120-1-31**]  04:11 PM
                             [**2120-2-1**]  06:17 AM
                             [**2120-2-2**]  04:11 AM
                             [**2120-2-2**]  04:54 PM
                             [**2120-2-3**]  04:21 AM
                             [**2120-2-4**]  07:00 AM
                             [**2120-2-5**]  05:22 AM
   WBC
   11.9
   9.4
   7.2
   7.3
   9.3
   10.3
   Hct
   40
   27.6
   26.0
   23.7
   24.3
   25.6
   24.7
   Plt
   184
   195
   205
   190
   188
   209
   Cr
   2.2
   2.0
   2.1
   2.0
   2.1
   2.0
   1.9
   TCO2
   18
   Glucose
   144
   121
   100
   88
   88
   101
   Other labs: PT / PTT / INR:12.0/40.1/1.0, CK / CKMB /
   Troponin-T:81/4/0.21, ALT / AST:46/53, Alk Phos / T Bili:119/0.3,
   Differential-Neuts:72.9 %, Lymph:15.7 %, Mono:10.6 %, Eos:0.6 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   74 y/o M with history of HTN, COPD, dCHF (last EF 55% with LVH),
   admitted for CHF exacerbation.
   .
   #. Hypotension: Likely related to autonomic dysfunction in the setting
   of possible [**Doctor Last Name **] amyloidosis.  Cortisol stimulation showed somewhat
   blunted response, but endocrine does not feel that the patient has
   adrenal insufficiency. On midodrine. Continued hypotension with
   withdrawal from pressors. Now has c.diff likely hospital acquired but
   sepsis remains unlikely the etiology of his hypotension. Pressors
   d/c
ed yesterday, only slightly hypotensive this morning (SBP 97).
   - continue midodrine at 10 mg TID dose
   - holding pressors, restart dopa if pt develops symptomatic hypotension
   - f/u micro data
   - f/u endocrine recs
   - f/u results fat pad biopsy.
   .
   # Diarrhea: Pt found to be c.diff positive.
   - monitor volume status
   - continue flagyll.
   - guaiac stools
   .
   #. Acute on Chronic Renal Failure: Creatinine on admission was 2.2 with
   a recent baseline of 1.9.  Cr slightly increased to 2.3 today. OMR
   review reveals worsening of the patient's renal function over the past
   few months. FeUrea was consistent with a pre-renal state. However,
   proteinuria and renal ultrasound are suggestive of an intrinsic renal
   cause. Amyloidosis is likely the underlying process. AIN considered in
   Ddx in setting of urine eosinophils and omeprazole, changed to
   ranitidine.
   - f/u renal recs
   - f/u fat pat bx
   - can consider renal biopsy if fat pad bx does not reveal anything
   .
   #. Diastolic congestive heart failure/peripheral edema: Echo showed
   moderate pulmonary artery systolic hypertension and increased PCWP, as
   well as pleural effusions.  Cardiac catheterization showed mild
   biventricular diastolic dysfunction and moderate pulmonary
   hypertension.  As above, there is concern for possible infiltrative
   process (such as amyloidosis). Low limb lead voltages on EKG are
   consistent with this.
   - hold diuresis for now
   - low salt diet
   - f/u fat pad bx
   .
   #. Coronaries: The patient does have some Tn elevation, but troponins
   are flat and CK normal. Unlikely to be related to ACS.
   - continue atorvastatin and aspirin
   .
   #. Monoclonal gammopathy: Patient has IgA kappa monoclonal gammopathy.
   Unclear if he also has amyloidosis and/or myeloma.
   - f/u fat pad biopsy
   - heme/onc consult when appropriate
   .
   #. Microcytic Anemia: Recent iron studies in [**2119-12-25**], show evidence of
   iron deficiency anemia. Colonoscopy in [**2114**] was normal.  Hematocrit has
   been stable. Iron studies showed low iron with borderline low TIBC and
   ferritin.  Monoclonal gammopathy may also be contributing to anemia if
   patient has myeloma. Hct has been relatively stable throughout
   hospitalization.
   - maintain active T&S
   - transfuse for goal Hct<21
   - guaiac all stools
   - continue iron supplementation
   .
   # COPD: Continue nebs PRN
   .
   # Vit B12 Deficiency: Continue supplementation
   .
   # H/O ETOH Abuse: Per pt, he has not used alcohol in 3 months.
   - no CIWA at this time; can consider if pt develops signs of withdrawal
   - continue MVI, thiamine, and folate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2120-1-28**] 02:00 AM
   20 Gauge - [**2120-2-2**] 09:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2120-02-06 06:57:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - called out to [**Hospital Ward Name 289**] 3
   - d/c'ed cordis
   - renal recommended getting urine lytes, giving fluid
   - d/c'ed foley
   - gave 500 cc bolus, as pt was not putting out urine
   - Talked to the pathology dept: the specimen hasnt been looked at yet.
   Will be seen probably later today or tomorrow.
   - gave another 500 cc bolus, as pt still not putting out much urine
   - ended up staying in the CCU one more night [**12-26**] decreased UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-6**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 61 (57 - 72) bpm
   BP: 76/38(46) {75/38(46) - 122/68(72)} mmHg
   RR: 20 (9 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.1 kg (admission): 84.8 kg
   Height: 70 Inch
                  Total In:
                                                                  1,970 mL
                                                                    360 mL
   PO:
                                                                    820 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    133 mL
   Urine:
                                                                    280 mL
                                                                    133 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,690 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   GENERAL: Alert; NAD.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: Bronchial BS bilaterally.
   ABDOMEN: Non-tender. Mildly distended.
   EXTREMITIES: Pitting edema in the bilateral LE's to the thighs.
   Labs / Radiology
   206 K/uL
   7.9 g/dL
   88 mg/dL
   2.5 mg/dL
   20 mEq/L
   4.3 mEq/L
   46 mg/dL
   107 mEq/L
   135 mEq/L
   24.6 %
   9.7 K/uL
        [image002.jpg]
                             [**2120-1-30**]  09:37 AM
                             [**2120-1-31**]  05:09 AM
                             [**2120-1-31**]  04:11 PM
                             [**2120-2-1**]  06:17 AM
                             [**2120-2-2**]  04:11 AM
                             [**2120-2-2**]  04:54 PM
                             [**2120-2-3**]  04:21 AM
                             [**2120-2-4**]  07:00 AM
                             [**2120-2-5**]  05:22 AM
                             [**2120-2-6**]  03:34 AM
   WBC
   11.9
   9.4
   7.2
   7.3
   9.3
   10.3
   9.7
   Hct
   27.6
   26.0
   23.7
   24.3
   25.6
   24.7
   24.6
   Plt
   184
   195
   205
   190
   188
   209
   206
   Cr
   2.2
   2.0
   2.1
   2.0
   2.1
   2.0
   1.9
   2.3
   2.5
   TCO2
   18
   Glucose
   144
   121
   100
   88
   88
   101
   88
   88
   Other labs: PT / PTT / INR:12.0/40.1/1.0, CK / CKMB /
   Troponin-T:81/4/0.21, ALT / AST:46/53, Alk Phos / T Bili:119/0.3,
   Differential-Neuts:72.9 %, Lymph:15.7 %, Mono:10.6 %, Eos:0.6 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   74 y/o M with history of HTN, COPD, dCHF (last EF 55% with LVH),
   admitted for CHF exacerbation.
   .
   #. Hypotension: Likely related to autonomic dysfunction in the setting
   of possible [**Doctor Last Name **] amyloidosis.  Cortisol stimulation showed somewhat
   blunted response, but endocrine does not feel that the patient has
   adrenal insufficiency. On midodrine. Continued hypotension with
   withdrawal from pressors. Now has c.diff likely hospital acquired but
   sepsis remains unlikely the etiology of his hypotension. Has had
   decreased blood pressure and low urine output since pressors d/c
   - continue midodrine at 10 mg TID dose
   - holding pressors for now; will bolus with fluids to see if this helps
   urine output
   - f/u micro data: no new data
   - f/u results fat pad biopsy
   .
   # Diarrhea: Pt found to be c.diff positive.
   - monitor volume status
   - continue flagyl
   - guaiac stools
   .
   #. Acute on Chronic Renal Failure: Creatinine on admission was 2.2 with
   a recent baseline of 1.9.  Cr increased to 2.5 today. FeUrea consistent
   with a pre-renal cause of this increase, although ATN is also possible.
   With regard to the more chronic process, OMR review reveals worsening
   of the patient's renal function over the past few months. Proteinuria
   and renal ultrasound are suggestive of an intrinsic renal cause.
   Amyloidosis may be the underlying process. AIN considered in Ddx in
   setting of urine eosinophils and omeprazole, changed to ranitidine.
   - fluid challenge to see if this improves creatinine/urine output
   - f/u renal recs
   - f/u fat pat bx
   - can consider renal biopsy if fat pad bx does not reveal anything
   .
   #. Diastolic congestive heart failure/peripheral edema: Echo showed
   moderate pulmonary artery systolic hypertension and increased PCWP, as
   well as pleural effusions.  Cardiac catheterization showed mild
   biventricular diastolic dysfunction and moderate pulmonary
   hypertension.  As above, there is concern for possible infiltrative
   process (such as amyloidosis). Low limb lead voltages on EKG are
   consistent with this.
   - hold diuresis for now
   - low salt diet
   - f/u fat pad bx
   .
   #. Coronaries: The patient does have some Tn elevation, but troponins
   are flat and CK normal. Unlikely to be related to ACS.
   - continue atorvastatin and aspirin
   .
   #. Monoclonal gammopathy: Patient has IgA kappa monoclonal gammopathy.
   Unclear if he also has amyloidosis and/or myeloma.
   - f/u fat pad biopsy
   - heme/onc consult when appropriate
   .
   #. Microcytic Anemia: Recent iron studies in [**2119-12-25**], show evidence of
   iron deficiency anemia. Colonoscopy in [**2114**] was normal.  Hematocrit has
   been stable. Iron studies showed low iron with borderline low TIBC and
   ferritin.  Monoclonal gammopathy may also be contributing to anemia if
   patient has myeloma. Hct has been relatively stable throughout
   hospitalization.
   - maintain active T&S
   - transfuse for goal Hct<21
   - guaiac all stools
   - continue iron supplementation
   .
   # COPD: Continue nebs PRN
   .
   # Vit B12 Deficiency: Continue supplementation
   .
   # H/O ETOH Abuse: Per pt, he has not used alcohol in 3 months.
   - no CIWA at this time; can consider if pt develops signs of withdrawal
   - continue MVI, thiamine, and folate
   ICU Care
   Nutrition: low-sodium, heart-healthy diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-2-5**] 03:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-02-07 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - gave 500 cc NS x 2
   - gave 500 cc NS x 2 again after midnight for low UOP; did not respond
   to bolus
   Initially, but over last 2 hours has put out 37cc urine.
   - EKG showed sinus rhythm
   - renal spun urine, saw granular casts, consistent with ATN
   - Urine lytes showing very low FEna
   - renal recs: continue fluids; follow-up fat pad biopsy; may need renal
   biopsy; check LFTs
   - This am had formed bm with 30cc blood
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-2-6**] 04:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-6**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:numbness in lle, resolved, denies diarrhea,
   Flowsheet Data as of  [**2120-2-7**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 60 (53 - 73) bpm
   BP: 89/50(59) {73/38(49) - 103/88(92)} mmHg
   RR: 19 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 84.6 kg (admission): 84.8 kg
   Height: 70 Inch
             Total In:
                                                                  2,140 mL
                                                                  1,120 mL
   PO:
                                                                  1,140 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    355 mL
                                                                     70 mL
   Urine:
                                                                    355 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,785 mL
                                                                  1,050 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   GENERAL: Neuro: Very alert & oriented with person time and place.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: Bronchial BS bilaterally.
   ABDOMEN:+bs, soft,  mildly TTP at biopsy site. Site c/d/I, no
   erythema,redness, swelling. Mildly distended abdomen,
   EXTREMITIES: Pitting edema in the bilateral LE's to the thighs.
   Pulses: dopplerable in BLE
   Labs / Radiology
   206 K/uL
   7.9 g/dL
   80 mg/dL
   2.5 mg/dL
   22 mEq/L
   4.4 mEq/L
   47 mg/dL
   106 mEq/L
   135 mEq/L
   24.6 %
   9.7 K/uL
        [image002.jpg]
                             [**2120-1-31**]  05:09 AM
                             [**2120-1-31**]  04:11 PM
                             [**2120-2-1**]  06:17 AM
                             [**2120-2-2**]  04:11 AM
                             [**2120-2-2**]  04:54 PM
                             [**2120-2-3**]  04:21 AM
                             [**2120-2-4**]  07:00 AM
                             [**2120-2-5**]  05:22 AM
                             [**2120-2-6**]  03:34 AM
                             [**2120-2-6**]  02:56 PM
   WBC
   11.9
   9.4
   7.2
   7.3
   9.3
   10.3
   9.7
   Hct
   27.6
   26.0
   23.7
   24.3
   25.6
   24.7
   24.6
   Plt
   184
   195
   205
   190
   188
   209
   206
   Cr
   2.2
   2.0
   2.1
   2.0
   2.1
   2.0
   1.9
   2.3
   2.5
   2.5
   Glucose
   144
   121
   100
   88
   88
   101
   88
   88
   80
   Other labs: PT / PTT / INR:12.0/40.1/1.0, CK / CKMB /
   Troponin-T:81/4/0.21, ALT / AST:40/35, Alk Phos / T Bili:145/0.3,
   Differential-Neuts:72.9 %, Lymph:15.7 %, Mono:10.6 %, Eos:0.6 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:178 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 HYPOTENSION (NOT SHOCK)
 .H/O ANEMIA, OTHER
 .H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   74 y/o M with history of HTN, COPD, dCHF (last EF 55% with LVH),
   admitted for CHF exacerbation.
   .
   #. Hypotension: Likely related to autonomic dysfunction in the setting
   of possible [**Doctor Last Name **] amyloidosis.  Cortisol stimulation showed somewhat
   blunted response, but endocrine does not feel that the patient has
   adrenal insufficiency. On midodrine. Continued hypotension with
   withdrawal from pressors. Now has c.diff likely hospital acquired but
   sepsis remains unlikely the etiology of his hypotension. Has had
   decreased blood pressure and low urine output  as he has poor
   vasculator tone and intrinsic renal disease (possibly amyloid)
   exacerbated by chronic renal failure .
   - continue midodrine at 10 mg TID dose
   - volume expansion as tolerated/
   - f/u micro data: no new data
   - f/u results fat pad biopsy
   f/u renal recs
   .
    #. Acute on Chronic Renal Failure: Creatinine on admission was 2.2
   with a recent baseline of 1.9.  Cr stable at 2.5 at the moment. Urine
   output currently not responding well with fluid challenge. FeNa 0.1
   consistent with a pre-renal  which likely progressed to ATN given
   presence of granular casts on urine sediment. With regard to the more
   chronic process, OMR review reveals worsening of the patient's renal
   function over the past few months. Proteinuria and renal ultrasound are
   suggestive of an intrinsic renal cause. Amyloidosis may be the
   underlying process. AIN considered in Ddx in setting of urine
   eosinophils and omeprazole, changed to ranitidine. Pt has received 2L
   *ie half his blood volume) with no increase in his bp, minimal
   improvement in UOP.
   - volume expansion as tolerated,.
   - f/u fat pat bx
 if negative, renal bx as per renal recs
   - can consider renal biopsy if fat pad bx does not reveal anything
   .
   # Diarrhea: Pt found to be c.diff positive.
   - monitor volume status
   - continue flagyl
   - guaiac stools
   # Bleeding: Known hemorrhoids versus secondary to c.diff (less likely)
   Continue to trend HCT
   Guaic all stools.
   Maintain active T and S.
   .
   #. Diastolic congestive heart failure/peripheral edema: Echo showed
   moderate pulmonary artery systolic hypertension and increased PCWP, as
   well as pleural effusions.  Cardiac catheterization showed mild
   biventricular diastolic dysfunction and moderate pulmonary
   hypertension.  As above, there is concern for possible infiltrative
   process (such as amyloidosis). Low limb lead voltages on EKG are
   consistent with this.
   - hold diuresis for now
   - low salt diet
   - f/u fat pad bx
   .
   #. Coronaries: The patient does have some Tn elevation, but troponins
   are flat and CK normal. Unlikely to be related to ACS.
   - continue atorvastatin and aspirin
   .
   # Rhythm: There was concern re regularity. 12 lead EKG shows normal
   sinus rhythm.
   - continue monitoring telemetry
   .
   #. Monoclonal gammopathy: Patient has IgA kappa monoclonal gammopathy.
   Unclear if he also has amyloidosis and/or myeloma.
   - f/u fat pad biopsy
   - heme/onc consult pending results
   .
   #. Microcytic Anemia: Recent iron studies in [**2119-12-25**], show evidence of
   iron deficiency anemia. Colonoscopy in [**2114**] was normal.  Hematocrit has
   been stable. Iron studies showed low iron with borderline low TIBC and
   ferritin.  Monoclonal gammopathy may also be contributing to anemia if
   patient has myeloma. Hct has been relatively stable throughout
   hospitalization.
   - maintain active T&S
   - transfuse for goal Hct<21
   - guaiac all stools
   - continue iron supplementation
   .
   # COPD: Continue nebs PRN
   .
   # Vit B12 Deficiency: Continue supplementation
   .
   # H/O ETOH Abuse: Per pt, he has not used alcohol in 3 months.
   - no CIWA at this time; can consider if pt develops signs of withdrawal
   - continue MVI, thiamine, and folate
   ICU Care
   Nutrition: low-sodium, heart-healthy diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-2-5**] 03:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor